US09034900B2
Step 1: 5-(2,6-dichloropyrimidin-4-yl)-1,3-dimethylpyridin-2-one
A mixture of 2,4,6-trichloropyrimidine (275 mg, 1.5 mmol), 1,3-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one (246 mg, 1 mmol), Pd(OAc)2 (20 mg), triphenylphosphine (16 mg), and 2M Na2CO3 (1 mL, 2 mmol) in THF (6.7 mL) was purged with nitrogen for 5 min, capped, and heated to 80° C. for 3 h. After the mixture was filtered through a short bed of celite, the filtrate was concentrated in vacuo and purified by silica gel column chromatography using a gradient (0 to 100%) EtOAc in DCM to afford the title compound (150 mg, 55%) as a white solid. LCMS (M+H)+=271.

reactant | 2,4,6-trichloropyrimidine | 1.5 mmol, 275 mg | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | 1,3-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one | 1 mmol, 246 mg | CN1C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C13H20BNO3
reactant | triphenylphosphine | 16 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Na2CO3 | 2 mmol, 2M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 6.7 mL | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 20 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-(2,6-dichloropyrimidin-4-yl)-1,3-dimethylpyridin-2-one | 150 mg, 55% | ClC1=NC(=CC(=N1)C=1C=C(C(N(C1)C)=O)C)Cl | C11H9Cl2N3O
